US04609396
To a solution of 1.2 g allyl alcohol and 1.6 g pyridine in 50 cc methylene chloride, add 6.6 g of 2-[4-(2-quinoxalinyloxy)phenoxy]propionyl chloride in 60 cc methylene chloride. Stir the mixture at room temperature overnight. Wash the methylene chloride solution with water and dry the solution over magnesium sulfate concentrate under vacuum to give allyl 2-[4-(2-quinoxalinyloxy)phenoxy]propanoate.

reactant | allyl alcohol | 1.2 g | C(C=C)O | C3H6O
reactant | pyridine | 1.6 g | N1=CC=CC=C1 | C5H5N
reactant | 2-[4-(2-quinoxalinyloxy)phenoxy]propionyl chloride | 6.6 g | N1=C(C=NC2=CC=CC=C12)OC1=CC=C(OC(C(=O)Cl)C)C=C1 | C17H13ClN2O3
solvent | methylene chloride | 50 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 cc | C(Cl)Cl | CH2Cl2
product | allyl 2-[4-(2-quinoxalinyloxy)phenoxy]propanoate | N1=C(C=NC2=CC=CC=C12)OC1=CC=C(OC(C(=O)OCC=C)C)C=C1 | C20H18N2O4
